US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one
Following general procedure A-2, tert-butyl trans-4-[6-(3,5-difluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate (64 mg, 0.100 mmol) was reacted with TFA (2 mL) to afford the desired product (10.8 mg, 36%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.97 (s, 1H), 8.32 (d, J=1.8 Hz, 1H), 8.00 (dd, J=8.7, 2.0 Hz, 1H), 7.90 (d, J=8.7 Hz, 1H), 7.28 (dd, J=7.8, 1.9 Hz, 2H), 4.26-4.15 (m, 1H), 3.81-3.69 (m, 1H), 3.27-3.18 (m, 1H), 2.38 (d, J=12.6 Hz, 2H), 2.18 (d, J=11.7 Hz, 2H), 1.69 (q, J=10.4 Hz, 2H), 1.61-1.53 (m, 2H), 1.24 (d, J=6.8 Hz, 6H); ESI MS m/s 440 [C25H27F2N3O2+H]+; HPLC 95.0% (AUC), tR=10.50 min.

reactant | tert-butyl trans-4-[6-(3,5-difluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 64 mg | FC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H35F2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one | 10.8 mg, 36% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)F)C(C(C)C)=O | C25H27F2N3O2
